data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,6085,"C1=CC=C(C[OH+:1][H:2])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.O=C1CC(C(O)(OCC2=CC=CC=C2)[OH:3])C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,895,"CCCO[C:1](C1=CC=CC=C1)=[O:2].CCC[CH2:3][Li:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1160,"CCO.CCOC(=O)C1=C(C)[NH+:1]([H:2])C(C)(O)C(C(=O)OCC)C1C1=C(CCC2=CC(Br)=CC=C2)ON=C1C.O.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8357,"CC(C(C1=CC=CC=C1)C1=CC=CC=C1)=[O+:1][H:2].O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5128,"CC1CC2C(CC3(C)C([OH:1])CC4C(C=CC4(C)C)C23O)C1OCC1=CC=CC=C1.CC[NH+](C(C)C)C(C)C.O=[S:2](=O)=[CH2:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,150,"O.O[C:1]1([OH:2])CCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4300,"CC(C)[O-].CCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)C(CCC)C1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5059,"CC(C)(CO)CO.CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1CC2CC(=[O+:1][H:2])CC2C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9574,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1C2(O)CCCC(=O)C2(C)CCC1([NH2+]C(CC1=CC=CC=C1)C(=O)O)[O:1][H:2].[NH3+]C(CC1=CC=CC=C1)C(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9559,"CC(=O)[O-:1].NC12CCC3CCN(CCS(=O)C4=CC=CC=C4)C3C1C1=C(C=CC=C1)[NH+:2]2[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8123,"CC(C)C.COC1=CC=C(COCC2C[C:1]3(SCCCS3)[Si-:2](C)(C)(C(C)(C)C)O2)C=C1.[Li+:3]|((2, 1), 3)"
train,pmechdb_split_0,0,4868,"CC(=O)CC[CH:1]=[CH:2][O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5266,"C[CH:1]=[Br+:2].[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,831,"C1CC[NH:1]CC1.CC(NC(=O)OC[C:2]1([H:3])C2=CC=CC=C2C2=C1C=CC=C2)C([NH3+])=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4231,"CN(C)C(N(C)C)=[NH:1].N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3718,"CC(=O)O.COC(=O)[C:1](C(=O)O)(C(CC1=CC=CC=C1)N1CCCCC1)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2773,"CC(C)(C)[OH:1].CN=C[CH:2]([H:3])[C+:4](C)C(C)C|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,2734,"C1=CC2=C(C=C1)[CH:1]=[CH:2][NH:3]2.O=C(C(F)(F)F)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5978,"CSC.CS[S+:1]1CCC[N:2](C)[CH2:3]1.F[B-](F)(F)F|(2, 3);((3, 1), 1)"
train,pmechdb_split_0,0,8379,"CC1=CC(C(C)(C)C)=[N:1]C(C(C)(C)C)=C1.COCC1OC([O+:2](CC2(C)CCC(O[Si](C(C)C)(C(C)C)C(C)C)=C(C)C2)[H:3])C(OC)C(OC)C1OC.CS(=O)(=O)OSC1=CC=CC=C1.CS(=O)(=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2687,"CCC[CH2:1][Li:2].CN(C)P(=O)(N(C)C)N(C)C.COC1=CC=C(COCCCC#[C:3][H:4])C=C1|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3689,"C[C:1]1(C)[OH+:2]CCC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2594,"C1CC[C+:1](OCC[OH:2])CC1|(2, 1)"
train,pmechdb_split_0,0,8395,"C[As+](C)(C)[CH-:1][CH2:2][OH+:3][K]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2747,"COC1=C[CH:1]=[C:2](C(OC)(OC)[CH:3](C)[O:4]S(C)(=O)=O)C=C1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7866,"CCO[S:1](C)(C)[O:2][C:3](NC)=[NH+:4]C|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2345,"CCCC[N+](CCCC)(CCCC)CCCC.O=C(C1=CC=CC=C1)C(Br)C(C(=O)[O:1][H:2])(C1=CC=CC=C1)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9910,"CO[C:1]1=[CH:2]C=C(Br)C([N+](=O)[O-])=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7698,"CC1(C)C[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,976,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[O-:3].O.O=C(C(F)(F)F)[O:4][H:5].O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4760,"COC1=C(N)C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.O=N[OH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5654,"O=C1CCCC(C2CC2C(CO)[O:1][Sn-]([Cl])([Cl])([Cl])[Cl])O1.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6588,"C[C:1](=[CH2:2])[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,394,"CN[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,7137,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC1C(=[O:1])CCC2(C)C(=O)CCCC12O.NC(CC1=CC=CC=C1)C(=O)O.[NH3+]C(CC1=CC=CC=C1)C(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,524,"CC1=C[CH:1]=[CH:2]O1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,7532,"CCCCC=CC=C[O:1]C(C)OCC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,1140,"CC(C1CC2CC(C)(O)C(O)CC2(C)C2(C1)OCCO2)=[O:1].O=C(O[O:2][H:3])C1=CC=CC(Cl)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4538,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(CCO)CC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,9770,"CC(=O)O[C:1](CCC=O)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6825,"CO.O.O=C(O)C(CC1=CC=C(O)[CH:1]=[CH:2]1)[NH+:3]=[CH2:4].[Cl-]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5558,"O=C(O)NC([NH2+]C(=O)[O:1][H:2])=C([N+](=O)[O-])[N+](=O)[O-].O=S(=O)(O)[O-:3].O=[N+]([O-])C[N+](=O)[O-]|(3, 2);((2, 1), 1)"
